* C:\Users\ashok\git\razavi_cmos_analog\Project_2\Project_2.asc
* Generated by LTspice 24.1.10 for Windows.
Mb1 iref1 iref1 vss vss NMOS_05 W=10u L=0.5u
Mb3_sink iref3 iref3 vss vss NMOS_05 W=10u L=0.5u
M11 N001 iref1 vss vss NMOS_05 W=130u L=0.5u
M1 X inp N001 N001 NMOS_05 W=1500u L=0.5u
M2 Y inn N001 N001 NMOS_05 W=1500u L=0.5u
M3 X iref2 vdd vdd PMOS_05 W=150u L=0.5u
M4 Y iref2 vdd vdd PMOS_05 W=150u L=0.5u
M5 out vb2 Y Y PMOS_05 W=200u L=0.5u
M6 N002 vb2 X X PMOS_05 W=200u L=0.5u
M10 N003 N003 vss vss NMOS_05 W=100u L=0.5u
M8 N002 vb1 N003 N003 NMOS_05 W=97u L=0.5u
M7 out vb1 N004 N004 NMOS_05 W=97u L=0.5u
M9 N004 N003 vss vss NMOS_05 W=97u L=0.5u
C1 out 0 10pF
*R1 out 0 250k tol=0
Mb2_src iref2 iref2 vdd vdd PMOS_05 W=15u L=0.5u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ashok\AppData\Local\LTspice\lib\cmp\standard.mos
.model NMOS_05 nmos level=1 vto=0.7 kp=134u gamma=0.45 phi=0.9 lambda=0.1
.model PMOS_05 pmos level=1 vto=-0.8 kp=38u gamma=0.45 phi=0.9 lambda=0.2
*------------ Power Supply-----------
VDD vdd 0 DC 3.0
VSS vss 0 DC -3.0
Vb1 vb1 0 DC -1.1
Vb2 vb2 0 DC 0.65
* Bias Circuit
IREF1 vdd iref1 100u
IREF2 iref2 vss 100u
IREF3 vdd iref3 100u
*------------ Input Signals ------------
Vin_p inp 0 DC 0 AC 1 PULSE(-1 1 1u 10n 10n 5u 10u)
Vin_n inn 0 DC 0
* --- Simulation Commands ---
.op
* ~-For DC sweep-~
*.dc Vin_p -0.02 0.02 0.0001
.meas DC Vout_at_neg FIND V(out) AT=-0.001
.meas DC Vout_at_pos FIND V(out) AT=0.001
.meas DC Av PARAM (Vout_at_neg-Vout_at_pos)/0.002
* -~AC analysis-~
*.ac dec 10 1 100meg
*.meas AC Av_max MAX mag(V(out))
*.meas AC Av_dB PARAM 20*log10(Av_max)
*.meas AC f_3dB WHEN mag(V(out))=Av_max/sqrt(2)
*.meas AC GBW PARAM Av_max*f_3dB
* ~- Transient ~-:
*.tran 0.01u 10u
*.meas TRAN SR_rise DERIV V(out) WHEN V(out)=0 RISE=1
*.meas TRAN SR_fall DERIV V(out) WHEN V(out)=0 FALL=1
.backanno
.end
